* Z:\home\sven\development\hugo\static\astable_multivibrator.asc
V1 N001 0 12
R1 N002 N006 470R
R2 N001 N007 33kR
R3 N001 N004 33kR
R4 N003 N005 470R
C1 N004 N006 22µC
C2 N005 N007 22µC
Q1 N005 N004 0 0 BC547B
Q2 N006 N007 0 0 BC547B
D1 N001 N002 D
D2 N001 N003 D
.model D D
.lib C:\users\sven\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\sven\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 20
.backanno
.end
